US05252464
On this basis Suzuki et al. first carried out a solid-phase synthesis, in which a Boc-Asp(ONb)-Ser(Bzl)-Asp(ONb)-Pro-Arg(NO2) resin was produced stepwise from Boc-Arg(NO2)-OH, which was esterified to a chloromethylated styrene-copolymer resin, coupling with Boc-Asp-(ONb)-OH being performed in the last step. The resin was treated in traditional manner with a hydrogen fluoride anisole mixture, and the crude peptide obtained was hydrogenated for 7 hours to remove the (ONb) groups from Asp in the presence of Pd-on-carbon in water. Product was obtained in a yield of 22% calculated on Boc-Arg(NO2) resin used. Suzuki has not described analysis of side products, but it is well known that hydrogenation of Arg(NO2) gives rise to formation of ornithine, which it is difficult to remove.

reactant | hydrogen fluoride anisole | C1(=CC=CC=C1)OC.F
reactant | Arg(NO2) | N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O | C6H13N5O4
product | ornithine | N[C@@H](CCCN)C(=O)O | C5H12N2O2
